US04260612
1.0 g. (3.48 mmoles) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid is dissolved in 4 ml. of pyridine and the solution is allowed to stand for 3 days at room temperature. The precipitated crystals are filtered and washed with chloroform. 0.75 g. (66.9%) of 1-(6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-9-yl)-pyridinium bromide is obtained. Melting point: 250°-252° C. After recrystallization twice from methanol the melting point is increased to 270°-272° C.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 3.48 mmoles | BrC1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C10H11BrN2O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-9-yl)-pyridinium bromide | 66.9% | [Br-].CC1CCC(C=2N1C(C=CN2)=O)[N+]2=CC=CC=C2 | InChI=1S/C14H16N3O.BrH/c1-11-5-6-12(16-9-3-2-4-10-16)14-15-8-7-13(18)17(11)14;/h2-4,7-12H,5-6H2,1H3;1H/q+1;/p-1
